US03950333
Reaction of 2-[(2-aminoethyl)thiomethyl]pyrazine with S-methyl-N-nitroisothiourea by the procedure of Example 2(ii) gives N-nitro-N'-[2-(2-pyrazinylmethylthio)-ethyl]guanidine. Similarly by the procedure of Example 2 (iii), there is prepared N-methyl-N'-nitro-[2-(2-pyrazinylmethylthio)ethyl]guanidine.

reactant | 2-[(2-aminoethyl)thiomethyl]pyrazine | NCCSCC1=NC=CN=C1 | C7H11N3S
reactant | S-methyl-N-nitroisothiourea | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
product | N-nitro-N'-[2-(2-pyrazinylmethylthio)-ethyl]guanidine | [N+](=O)([O-])NC(=N)NCCSCC1=NC=CN=C1 | C8H12N6O2S
